US04515966
PREPARATION OF 4,5-DIMETHYL-2-[2-(METHYLTHIO)ETHYL]-1,3-OXATHIOLANE
Into a 100 ml reaction flask equipped with spin bar, reflux condenser, heating mantle, hot plate apparatus (with magnetic stirring apparatus) is placed 5 ml cyclohexane, 0.2 grams paratoluenesulfonic acid and 5.3 grams (0.05 moles) of 3-mercapto-2-butanol. Over a period of 30 minutes, 5.2 grams (0.05 moles) of 3-methylthiopropionaldehyde are added to the reaction mass. The reaction mass is then heated to reflux and water of reaction is continuously removed during the refluxing of the reaction mass. The reaction takes place over a period of 7 hours. At the end of the 7 hours the reaction mass is transferred to a separatory funnel and the reaction mass is washed with one 50 ml portion of saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. The product is then filtered and distilled on a Microvigreux column yielding the following fractions:

reactant | cyclohexane | 5 ml | C1CCCCC1 | C6H12
reactant | 3-mercapto-2-butanol | 0.05 moles, 5.3 grams | SC(C(C)O)C | C4H10OS
reactant | 3-methylthiopropionaldehyde | 0.05 moles, 5.2 grams | CCCC=S | C4H8S
solvent | water | O | H2O
product | 4,5-DIMETHYL-2-[2-(METHYLTHIO)ETHYL]-1,3-OXATHIOLANE | CC1SC(OC1C)CCSC | C8H16OS2
